US05217977
Using the procedure described in Example 1, 3-(2-pyridyl)prop-2-yn-1-yl bromide hydrobromide was reacted with (1RS,2SR)-1-(5-fluoro-3-hydroxyphenyl)-1,2-dimethoxycyclopentane to give (1RS,2SR)-1-[5-fluoro-3-(3-(2-pyridyl)prop-2-yn-1-yloxy)phenyl]-1,2-dimethoxycyclopentane in 83% yield, as an oil.

reactant | 3-(2-pyridyl)prop-2-yn-1-yl bromide hydrobromide | Br.N1=C(C=CC=C1)C#CCBr
reactant | (1RS,2SR)-1-(5-fluoro-3-hydroxyphenyl)-1,2-dimethoxycyclopentane | FC=1C=C(C=C(C1)C1(C(CCC1)OC)OC)O | C13H17FO3
product | (1RS,2SR)-1-[5-fluoro-3-(3-(2-pyridyl)prop-2-yn-1-yloxy)phenyl]-1,2-dimethoxycyclopentane | 83% yield | FC=1C=C(C=C(C1)C1(C(CCC1)OC)OC)OCC#CC1=NC=CC=C1 | C21H22FNO3
